US07074798B2
c) 4-[7-(Benzyl)-1-(ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(Benzyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (182 mg) was dissolved in N,N-dimethylformamide (2 ml), and potassium carbonate (90 mg) and ethyl bromoacetate (0.06 ml) were added thereto. The reaction solution was stirred at room temperature overnight, diluted with ethyl acetate, and washed with water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to give the title compound.

reactant | 4-[7-(Benzyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 182 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC1=CC=CC=C1)=O)=O)C | C22H28N6O4
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.06 ml | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(Benzyl)-1-(ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC1=CC=CC=C1)=O)CC(=O)OCC)=O)C | C26H34N6O6
